US06329381B1
Methyl-3-(6-amino-9-benzyl-2-purinyl)thiopropionate
To 3-(6-amino-9-benzyl-2-purinyl) thiopropionic acid (100 mg, 0.30 mmol) suspended in 10 ml of chloroform was added thionylchloride (0.14 ml, 2 mmol). After refluxing under heating for 1 hour methanol was dropped to the mixture under ice cooling. The solvent was removed in vacuo and the residue was purified by silica gel chromatography (1% methanol/chloroform) to give the subject compound (70 mg, yield 68%).

reactant | 3-(6-amino-9-benzyl-2-purinyl) thiopropionic acid | 0.30 mmol, 100 mg | NC1=C2N=CN(C2=NC(=N1)CCC(=S)O)CC1=CC=CC=C1 | C15H15N5OS
reactant | thionylchloride | 2 mmol, 0.14 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | CO | CH4O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl-3-(6-amino-9-benzyl-2-purinyl)thiopropionate | 70 mg, yield 68% | COC(CCC1=NC(=C2N=CN(C2=N1)CC1=CC=CC=C1)N)=S | C16H17N5OS
